US04153722
p-Chlorophenylhydroxylamine (0.05 moles) was dissolved in warm 95% ethanol (40 cc) and was treated with p-cyclohexylbenzaldehyde (0.05 moles) with vigorous stirring. The solid which formed was collected, washed with 95% ethanol, and was recrystallized from ethanol to give α-p-cyclohexylphenyl-N-p-chlorophenylnitrone.

reactant | p-Chlorophenylhydroxylamine | 0.05 moles | ClC1=CC=C(C=C1)NO | C6H6ClNO
reactant | p-cyclohexylbenzaldehyde | 0.05 moles | C1(CCCCC1)C1=CC=C(C=O)C=C1 | C13H16O
reactant | ethanol | 40 cc | C(C)O | C2H6O
product | α-p-cyclohexylphenyl-N-p-chlorophenylnitrone | C1CCC(CC1)C(=[N+]([O-])C1=CC=C(C=C1)Cl)C1=CC=CC=C1 | C19H20ClNO
